US07838675B2
(3R)-3-Amino-N-{2-[(2,3-difluorobenzyl)thio]-6-methoxypyrimidin-4-yl}pyrrolidine-1-sulfonamide
To a solution of tert-butyl (3R)-4-[({2-[(2,3-difluorobenzyl)thio]-6-methoxypyrimidin-4-yl}-amino)sulfonyl]-3-methylpiperazine-1-carboxylate (0.75 g) in DCM (10 ml) was added TFA (10 ml) slowly. The reaction then stirred at room temperature for 18 h. The reaction was reduced in vacuo and the residue purified by prep HPLC to give the title compound as a white solid. Yield: 0.27 g

reactant | tert-butyl (3R)-4-[({2-[(2,3-difluorobenzyl)thio]-6-methoxypyrimidin-4-yl}-amino)sulfonyl]-3-methylpiperazine-1-carboxylate | 0.75 g | FC1=C(CSC2=NC(=CC(=N2)NS(=O)(=O)N2[C@@H](CN(CC2)C(=O)OC(C)(C)C)C)OC)C=CC=C1F | C22H29F2N5O5S2
reactant | TFA | 10 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | (3R)-3-Amino-N-{2-[(2,3-difluorobenzyl)thio]-6-methoxypyrimidin-4-yl}pyrrolidine-1-sulfonamide | N[C@H]1CN(CC1)S(=O)(=O)NC1=NC(=NC(=C1)OC)SCC1=C(C(=CC=C1)F)F | C16H19F2N5O3S2
